US03978096
A mixture of 20 parts of 4-chloroanthraquinone-1-carboxylic acid, 200 parts of dimethylformamide and 3 parts of copper (I) oxide is heated for four hours at 150°C. The end product is precipitated by pouring the mixture into 400 parts of water and filtered. 14 parts (83.4% of theory) of 1-chloroanthraquinone is obtained having a melting point of 154° to 157°C.

reactant | 4-chloroanthraquinone-1-carboxylic acid | ClC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H7ClO4
catalyst | copper (I) oxide | [Cu-]=O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-chloroanthraquinone | 83.4% | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
